US07897762B2
In cold (˜0° C.) POCl3 (20 mL) was dropped triethylamine (0.55 mL) with stirring. To this was added in parts of ethyl 2-tert-butyl-4-hydroxypyrimidine-5-carboxylate (2.18 g, 9.72 mmol). The mixture then warmed to 40° C. and stirred under Argon for 1 hour. The mixture was evaporated until free of POCl3, diluted with CHCl3 (100 mL) and poured carefully into ice (300 mL). The solution was stirred at RT to melt. The organic phase was separated, washed with sodium bicarbonate (100 mL), water (100 mL) and dried (Na2SO4). The solvents evaporated to give ethyl 2-tert-butyl-4-chloropyrimidine-5-carboxylate (2.0 g, 85% yield). 1H NMR (400 MHz, DMSO-d6): δ 9.12 (s, 1H), 4.34 (q, J=6.8 Hz, 2H), 1.33 (s, 9H), 1.27 (t, J=6.8 Hz, 3H); MS (ESI) m/z: 243.0 (M+H+).

reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-tert-butyl-4-hydroxypyrimidine-5-carboxylate | 9.72 mmol, 2.18 g | C(C)(C)(C)C1=NC=C(C(=N1)O)C(=O)OCC | C11H16N2O3
solvent | triethylamine | 0.55 mL | C(C)N(CC)CC | C6H15N
product | ethyl 2-tert-butyl-4-chloropyrimidine-5-carboxylate | 2.0 g, 85% yield | C(C)(C)(C)C1=NC=C(C(=N1)Cl)C(=O)OCC | C11H15ClN2O2
